US08053457B2
[4-(3-Methoxy-propyl)-piperidin-1-yl]-acetonitrile
The title compound is synthesized by coupling of 4-(3-Methoxy-propyl)-piperidine (commercially available from ChemBridge Corporation) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=197.2; 1HNMR(DMSO-d6) 3.65 (s, 2H), 3.30 (t, 2H), 3.00 (s, 3H), 2.75-2.70 (m, 2H), 2.10-2.00 (m, 2H), 1.65-1.40 (m, 4H), 1.20-1.00 (m, 5H).

reactant | 4-(3-Methoxy-propyl)-piperidine | COCCCC1CCNCC1 | C9H19NO
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | [4-(3-Methoxy-propyl)-piperidin-1-yl]-acetonitrile | COCCCC1CCN(CC1)CC#N | C11H20N2O
